US06251926B1
Sodium hydride (60% in oil, 209 mg) was added under a nitrogen atmosphere to a solution of ethyl Z-2-(4-fluorophenyl)-2-hydroxyiminoacetate (920 mg) and 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (1.37 g) in N,N-dimethylformamide (10 ml) at room temperature and the mixture was stirred for 1 hour. After adding 1N HCl (7 ml), aqueous sodium bicarbonate was added, and then the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residue was subjected to column chromatography on silica gel to obtain an oil from a fraction eluted with ethyl acetate-hexane (1:3, v/v). This oil was dissolved in tetrahydrofuran (20 ml)-methanol (10 ml), and 1N aqueous solution of sodium hydroxide (10 ml) was added and the mixture was stirred at 40° C. for 2 hours. 1N HCl (10.5 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residual crystal was recrystallized from ethyl acetate to obtain Z-2-(4-fluorophenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetic acid (1.66 g, yield 83%) as colorless crystals. m.p. 182-183° C. (decomposition)

reactant | Sodium hydride | 209 mg | [H-].[Na+]
reactant | ethyl Z-2-(4-fluorophenyl)-2-hydroxyiminoacetate | 920 mg | FC1=CC=C(C=C1)/C(/C(=O)OCC)=N/O | C10H10FNO3
reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 1.37 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | HCl | 1N, 7 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Z-2-(4-fluorophenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetic acid | 1.66 g, yield 83% | FC1=CC=C(C=C1)/C(/C(=O)O)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H21FN2O5
